US09403801B2
Step 5) tert-butyl 9-(methyl(5-methyl-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecane-3-carboxylate
To a suspension of tert-butyl 9-((2-chloro-5-methylpyrimidin-4-yl)(methyl)amino)-3-azaspiro[5.5]undecane-3-carboxylate (211 mg, 0.52 mmol) and 1-methyl-1H-pyrazol-4-amine hydrochloride (160.3 mg, 1.20 mmol) in butan-1-ol (5 mL) was added DIPEA (201.63 mg, 1.56 mmol). The reaction mixture was stirred at 150° C. in a sealed tube overnight, then cooled down to rt, and concentrated in vacuo. The residue was purified by silica gel column chromatography (DCM/MeOH (v/v)=100/1 to 10/1) to give the title compound as a white solid (176.87 mg, 73%).

reactant | tert-butyl 9-((2-chloro-5-methylpyrimidin-4-yl)(methyl)amino)-3-azaspiro[5.5]undecane-3-carboxylate | 0.52 mmol, 211 mg | ClC1=NC=C(C(=N1)N(C1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1)C)C | C21H33ClN4O2
reactant | 1-methyl-1H-pyrazol-4-amine hydrochloride | 1.20 mmol, 160.3 mg | Cl.CN1N=CC(=C1)N
reactant | DIPEA | 1.56 mmol, 201.63 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | butan-1-ol | 5 mL | C(CCC)O | C4H10O
product | tert-butyl 9-(methyl(5-methyl-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecane-3-carboxylate | 176.87 mg, 73% | CN(C1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1)C1=NC(=NC=C1C)NC=1C=NN(C1)C | C25H39N7O2
